Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
spontaneous rupture of membranes, early labor
 
Major Surgical or Invasive Procedure:
Primary C section

 
History of Present Illness:
___ G2P0 at ___ with T1DM and with gush of fluid at
___ ___, clear followed by painful regular ctxs. Denies VB. 
+FM.

Of note, pt has scheduled c/s for ___ given EFW at that time
estimated to be >4500g. Was counseled that she may have TOL if
goes into labor prior to this.

 
Past Medical History:
POBHx:
1. D&C for miscarriage

PGynHx:
1. Remote hx of abnormal Pap s/p colposcopy with normal follow
up. Denies other STI

PMHx: T1DM, hypothyroidism, anxiety
PSHx: D&C
Meds: Insulin pump, fish oil, folic acid, levothyroxine 25mcg
Allergies: NKDA

 
Social History:
Social Hx: Denies T/E/D

 
Physical Exam:
Physical Exam on admission
98.1 98 20 ___ ___ 86
Gen: A&O, comfortable
CV: RRR
PULM: CTAB
Abd: soft, gravid, nontender
EFW 10# by ___
Ext: no calf tenderness

TAUS vtx
 
SVE: 
cervix  2  cm/   70 %effaced/    -1  station,   soft, anterior,
grossly ruptured

Toco ___
FHT 130/moderate varability/+accels/-decels

 
Pertinent Results:
___ 05:20AM   WBC-7.4 RBC-4.17* HGB-13.3 HCT-39.5 MCV-95 
MCH-31.9 MCHC-33.7 RDW-13.6
 
Brief Hospital Course:
Ms. ___ was admitted in early labor after SROM for a trial of 
labor. She progressed to 5 cm dilated but remained at 5cm for 
several hours and did not progress. She had previously been 
extensively counseled by Dr. ___ risks of labor 
given the EFW (see admit H&P for full details). Given her 
history of Type 1 diabetes and her estimated fetal weight of 9# 
she was diagnosed as a failed induction of labor and underwent a 
primary LTCS. A 9#4oz infant with APGARS 8 and 9 at 1 and 5 
minutes. Her post partum course was uncomplicated and per ___ 
recommendations adjustments were made to her insulin pump. On 
post partum day #5 she was discharged from the hospital in good 
condition.
 
Medications on Admission:
insulin pump
PNV
 
Discharge Medications:
1. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q3H:PRN Pain 
RX *oxycodone-acetaminophen 5 mg-325 mg 1 to 2 tablet(s) by 
mouth every six (6) hours Disp #*30 Tablet Refills:*0
2. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*30 Tablet Refills:*2
Insulin pump
PNV
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pregnancy delivered
Diabetes mellitus type 1
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Given
 
Followup Instructions:
___